US05395824
Preparation of N-Benzyloxycarbonyl-L-leucine-[1-(thiazolidine-2-yl)]pentylamide
In 20 ml of methanol was dissolved 1.0 g of N-benzyloxycarbonyl-L-leucine-(1-formyl)pentylamide obtained in the same manner as in Example 4-(b), and 400 mg of 2-aminoethanethiol hydrochloride, 0.4 ml of triethylamine, and a catalytic amount of concentrated sulfuric acid were added thereto. The mixture was allowed to react at room temperature for 12 hours. After completion of the reaction, the solvent was removed by distillation under redueed pressure. The residue was purified by medium-pressure column chromatography on silica gel to obtain 1.2 g of the titled compound as a colorless crystal.

reactant | N-benzyloxycarbonyl-L-leucine-(1-formyl)pentylamide | 1.0 g | C(=O)C(CCCC)NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O | C20H30N2O4
reactant | 2-aminoethanethiol hydrochloride | 400 mg | Cl.NCCS
reactant | triethylamine | 0.4 ml | C(C)N(CC)CC | C6H15N
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 20 ml | CO | CH4O
product | N-Benzyloxycarbonyl-L-leucine-[1-(thiazolidine-2-yl)]pentylamide | 1.2 g | S1C(NCC1)C(CCCC)NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O | C22H35N3O3S
